US04060526
Step 5. 5-Benzyloxyanthranilamide
A mixture of 5-hydroxyanthranilamide (15.2 g), 250 ml water, 5.1 ml 50% NaOH, and 11.7 ml of benzyl chloride was heated 1/2 at 95°, filtered and the solid recrystallized from 200 ml butanol to give 16.6 g product, m.163-5°.

reactant | 5-hydroxyanthranilamide | 15.2 g | OC1=CC=C(C(C(=O)N)=C1)N | C7H8N2O2
reactant | NaOH | 5.1 ml | [OH-].[Na+]
reactant | benzyl chloride | 11.7 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | 250 ml | O | H2O
product | 5-Benzyloxyanthranilamide | 16.6 g | C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)N)=C1)N | C14H14N2O2
